US20010018525A1
step 4 5-[3,3″-Dichloro-5′-(8-indol-1-yl-octylcarbamoyl)-[1,1′;3′,1″]terphenyl-2′-yloxy]-pentanoic acid
A mixture of 5-[3,3″-Dichloro-5′-(8-indol-1-yl-octylcarbamoyl)-[1,1′;3′,1″]terphenyl-2′-yloxy]-pentanoic acid, ethyl ester (0.409 g, 0.573 mmol) and 1N KOH (1.15 ml) in THF (6 ml) and methanol (3 ml) was stirred under nitrogen. After ˜18 h, the reaction mixture was concentrated in vac. The residue was suspended in water (25 ml) and acidified with 2 N HCl (1.15 ml) then extracted with EtOAc (3×25 ml). The combined organics were washed with water (3×10 nl), brine (2×10 ml), dried over Na2SO4, filtered and the filtrate concentrated in vac and dried. The residue was purified by preparatory plate chromatography (50% EtOAc/Hex) to give the title compound as a light yellow foam (0.249 g, 63%); dec. >50°C; 1H NMR (400 MHz, DMSO-d6) δ1.12-1.32 (m, 12H), 1.44-1.53 (m, 2H), 1.67-1.76 (m, 2H), 1.87 (t, J= 7.0 Hz, 2H), 3.16-3.27 (m, 4H), 4.12 (t, J=7.0 Hz, 2H), 6.37-6.38 (m, 1H), 6.94-6.99 (m, 1H), 7.06-7.10 (m, 1H), 7.31 (d, J=3.1 Hz, 1H), 7.40-7.52 (m, 6H), 7.56-7.59 (m, 2H), 7.66-7.69 (m, 2H), 7.87 (s, 2H), 8.52 (t, J=5.7 Hz, 1H), 11.85 (s, 1H); IR (KBr) 3400, 2940, 1710, 1630, 1550, 1220 cm−1; mass spectrum [(+)APCI], m/z 685 (M+H)+; Anal. Calcd. for C40H42Cl2N2O4: C, 70.07; H, 6.17; N, 4.09, Found: C, 69.66; H,6.17; N, 3.85.

reactant | 5-[3,3″-Dichloro-5′-(8-indol-1-yl-octylcarbamoyl)-[1,1′;3′,1″]terphenyl-2′-yloxy]-pentanoic acid, ethyl ester | 0.573 mmol, 0.409 g | ClC=1C=C(C=CC1)C1=C(C(=CC(=C1)C(NCCCCCCCCN1C=CC2=CC=CC=C12)=O)C1=CC(=CC=C1)Cl)OCCCCC(=O)OCC | C42H46Cl2N2O4
reactant | KOH | 1N, 1.15 ml | [OH-].[K+]
solvent | THF | 6 ml | C1CCOC1 | C4H8O
solvent | methanol | 3 ml | CO | CH4O
product | 5-[3,3″-Dichloro-5′-(8-indol-1-yl-octylcarbamoyl)-[1,1′;3′,1″]terphenyl-2′-yloxy]-pentanoic acid | 0.249 g, 63% | ClC=1C=C(C=CC1)C1=C(C(=CC(=C1)C(NCCCCCCCCN1C=CC2=CC=CC=C12)=O)C1=CC(=CC=C1)Cl)OCCCCC(=O)O | C40H42Cl2N2O4
